datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])[O+:10]([K])C(CCC)C(O)C1O>>[O:10]([K])C(CCC)C(O)C([C:20]([H])=[O:21])O 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]CC>>[H]C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"[Li][O:21]CC.[C:20](=[O:10])(OCC)OCC>>[Li][O+:21]([C:20]([O-:10])(OCC)OCC)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C(C)C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([NH]CC)[O][H] 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[O][H].[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][O:10][H].C[O+:21]=[C:20]([O][H])[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([O][H])[O]CC 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OCC)CCCCCC)([O-:21])C1=CC=CC=C1>>C1(C([O:21][C:20](O1)([O-:10])OCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[NH+:10](C)C([H])C(C)C1C>>[NH:10](C)C([H])C(C)C([C:20](OC)=[O:21])C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
